US06329547B1
A 1.0 M solution of 4-tolylmagnesium bromide in ether (20.5 ml) is added dropwise to a solution of diethyl oxalate (6.5 g) in anhydrous tetrahydrofuran (41 ml) under a nitrogen atmosphere and ice cooling. Five minutes after completing the addition, the mixture is stirred at room temperature for 1.5 hours. To the reaction mixture is added 1 N hydrochloric acid, and the whole is extracted with ether. The organic layer is washed with water and saturated brine successively, dried over anhydrous magnesium sulfate and concentrated under reduced pressure. The resulting residue is purified by silica gel column chromatography to give 2.99 g (76%) of ethyl 4-tolylglyoxylate.

reactant | 4-tolylmagnesium bromide | C1(=CC=C(C=C1)[Mg]Br)C
reactant | diethyl oxalate | 6.5 g | C(C(=O)OCC)(=O)OCC | C6H10O4
reactant | hydrochloric acid | 1 N | Cl | ClH
solvent | ether | 20.5 ml | CCOCC | C4H10O
solvent | tetrahydrofuran | 41 ml | O1CCCC1 | C4H8O
product | ethyl 4-tolylglyoxylate | 2.99 g, 76% | C1(=CC=C(C=C1)C(C(=O)OCC)=O)C | C11H12O3
